US09387200B2
b) [(4-Hydroxy-3-phenyl-7-pyridin-2-yl-isothiazolo[5,4-c]pyridine-5-carbonyl)-amino]-acetic acid
The title compound was synthesized in analogy to Example 1 from 4-Hydroxy-3-phenyl-7-pyridin-2-yl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester and glycine: MS (m/z) 407.1 (M+1).

reactant | 4-Hydroxy-3-phenyl-7-pyridin-2-yl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C1=NC=CC=C1)SN=C2C2=CC=CC=C2)O | C20H15N3O3S
reactant | glycine | NCC(=O)O | C2H5NO2
product | [(4-Hydroxy-3-phenyl-7-pyridin-2-yl-isothiazolo[5,4-c]pyridine-5-carbonyl)-amino]-acetic acid | OC1=C2C(=C(N=C1C(=O)NCC(=O)O)C1=NC=CC=C1)SN=C2C2=CC=CC=C2 | C20H14N4O4S
